US07728003B2
Step A. 8-Indan-5-yl-2-(3-methoxy-propylamino)-5-oxo-5,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester
Using the procedure outlined in Example 1 Step F, the title compound was prepared from 3-methoxy-propylamine and 8-indan-5-yl-2-methanesulfonyl-5-oxo-5,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester (from Example 1(Step E), 20 mg, 0.040 mmol). 11 mg of 8-Indan-5-yl-2-(3-methoxy-propylamino)-5-oxo-5,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester was obtained as a white solid. 1H NMR (400 MHz, CDCl3) δ (ppm): 9.24 (s, 1H), 8.47 (s, 1H), 7.34 (d, J=8.0 Hz, 1H), 7.23 (s, 1H), 7.15 (d, J=8.0 Hz, 1H), 6.01 (br, 1H), 4.37 (q, J=7.1 Hz, 2H), 3.34 (t, J=5.7 Hz, 2H), 3.29 (s, 3H), 3.24 (q, J=6.1 Hz, 2H), 2.99 (m, 4H), 2.18 (m, 2H), 1.71 (m, 2H), 1.38 (t, J=7.1 Hz, 3H).

reactant | 3-methoxy-propylamine | COCCCN | C4H11NO
reactant | 8-indan-5-yl-2-methanesulfonyl-5-oxo-5,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(C2=C(N=C(N=C2)S(=O)(=O)C)N(C1)C=1C=C2CCCC2=CC1)=O | C20H19N3O5S
product | 8-Indan-5-yl-2-(3-methoxy-propylamino)-5-oxo-5,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester | 11 mg | C(C)OC(=O)C=1C(C2=C(N=C(N=C2)NCCCOC)N(C1)C=1C=C2CCCC2=CC1)=O | C23H26N4O4
